US07875728B2
Preparation of N-{5-amino-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylmethyl}isonicotinamide
To a solution of 5-aminomethyl-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylamine (60 mg, 0.256 mmole), DMAP (31.2 mg, 0.256 mmole), and isonicotinic anhydride (70.2 mg, 0.31 mmole) in DMF (4 mL) was added triethylamine (51.7 mg, 0.512 mmole). The reaction mixture was stirred at ambient temperature for 30 minutes, and then saline and ethyl acetate were added. The aqueous phase was extracted with ethyl acetate. The organic extracts were dried over Na2SO4, filtered and concentrated in vacuo. The crude material was purified by preparative TLC to yield 43 mg (50%) of the title compound as a yellow powder. 1H NMR (ppm, 300 MHz, DMSO-d6) δ 11.92 (br s, 1H), 9.15 (br s, 1H), 8.67 (m, 2H), 7.76 (m, 2H), 7.30-7.63 (m, 3H), 6.70-7.25 (m, 3H), 4.70 (s, 2H).

reactant | 5-aminomethyl-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylamine | 0.256 mmole, 60 mg | NCC=1C(C(=NN1)N)=NNC1=CC(=CC=C1)F | C10H11FN6
reactant | isonicotinic anhydride | 0.31 mmole, 70.2 mg | C(C1=CC=NC=C1)(=O)OC(C1=CC=NC=C1)=O | C12H8N2O3
reactant | triethylamine | 0.512 mmole, 51.7 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | DMAP | 0.256 mmole, 31.2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-{5-amino-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylmethyl}isonicotinamide | 43 mg, 50% | NC=1C(C(=NN1)CNC(C1=CC=NC=C1)=O)=NNC1=CC(=CC=C1)F | C16H14FN7O
